US04468402
26.4 Grams of 6-[(4-benzyl-1-piperazinyl)carbonyl]carbostyril was suspended in 800 ml of a mixed solvent of ethanol-water and the pH of the suspension was adjusted to about pH 1 by adding concentrated hydrochloric acid. To this mixture was added 2.6 g of 5% palladium-carbon and catalytic reduction was conducted under a normal pressure at 45°-65° C. After the reaction was completed, the catalyst was removed by filtration and the solvent was removed by distillation under a reduced pressure. The residue obtained was crystallized by adding acetone and the crude crystals thus obtained were recrystallized from ethanol-water to obtain 19.9 g of 6-(1-piperazinylcarbonyl)carbostyril monohydrochloride. Colorless granular crystals. Melting point: over 300° C.

reactant | 6-[(4-benzyl-1-piperazinyl)carbonyl]carbostyril | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C=1C=C2C=CC(NC2=CC1)=O | C21H21N3O2
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium-carbon | 2.6 g | [C].[Pd]
solvent | ethanol water | C(C)O.O
product | 6-(1-piperazinylcarbonyl)carbostyril monohydrochloride | 19.9 g | Cl.N1(CCNCC1)C(=O)C=1C=C2C=CC(NC2=CC1)=O | InChI=1S/C14H15N3O2.ClH/c18-13-4-2-10-9-11(1-3-12(10)16-13)14(19)17-7-5-15-6-8-17;/h1-4,9,15H,5-8H2,(H,16,18);1H
